US07714126B2
A solution of methyl cyclohexylacetate (1.56 g, 10 mmol) in 25 mL anhydrous ether was stirred at −78° C. under argon. DIBAL (1M in hexane, 11 mL, 11 mmol) was added dropwise over 45 minutes and the reaction mixture was stirred for an additional 1 hour. A solution of potassium sodium tartrate tetrahydrate (6 g, 12.2 mmol) in 25 mL water was added and the mixture stirred at room temperature overnight. After dilution with ether, the organic layer was washed with 0.5 N HCl, saturated sodium bicarbonate and saturated sodium chloride, dried over sodium sulfate, filtered and concentrated to give cyclohexyl-acetaldehyde (1.17 g, 93%).

reactant | methyl cyclohexylacetate | 10 mmol, 1.56 g | C1(CCCCC1)CC(=O)OC | C9H16O2
reactant | DIBAL | 11 mmol, 1M, 11 mL | CC(C)C[AlH]CC(C)C
reactant | potassium sodium tartrate tetrahydrate | 12.2 mmol, 6 g | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | water | 25 mL | O | H2O
product | cyclohexyl-acetaldehyde | 1.17 g, 93% | C1(CCCCC1)CC=O | C8H14O
